US07285563B2
N-Cinnolin-5-yl-N′-[4-(trifluoromethyl)benzyl]urea
Prepared from cinnolin-5-amine (Sci Pharm. 1982, 50, 246) and [4-(trifluoromethyl)benzyl]isocyanate (Description 58) according to the procedure of Description 61. m/z (ES+) 347 (M+H)+.

reactant | cinnolin-5-amine | N1=NC=CC=2C(=CC=CC12)N | C8H7N3
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-Cinnolin-5-yl-N′-[4-(trifluoromethyl)benzyl]urea | N1=NC=CC2=C(C=CC=C12)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F | C17H13F3N4O
